US05112867
Benzyl 2-[bis(4-benzyloxyphenyl)methyl]benzoate
In 500 ml of methyl ethyl ketone were dissolved 50 g of phenolphthalin and 75 g of anhydrous potassium carbonate, and the solution was ice cooled. Subsequently, 58 ml of benzyl bromide was added dropwise to the solution, and the mixture was heated under reflux for 24 hours. The temperature of the mixture was brought back to room temperature, and concentrated. Thereafter, water was added to the residue, and the aqueous mixture was extracted with ethyl acetate. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. ]he organic layers were combined, washed with an aqueous 10% citric acid and then dried over anhydrous magnesium sulfate. The solvent was evaporated to give 114.61 g of the desired product.

reactant | phenolphthalin | 50 g | C1=CC=C(C(=C1)C(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O)C(=O)O | C20H16O4
reactant | potassium carbonate | 75 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 58 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methyl ethyl ketone | 500 ml | C(C)C(=O)C | C4H8O
product | Benzyl 2-[bis(4-benzyloxyphenyl)methyl]benzoate | 114.61 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C41H34O4
